US07851465B2
2-Amino-3-(2-chlorophenyl)propanoic acid hydrochloride (3.0 g, 12.7 mmol) was suspended in acetonitrile (50 mL) and water (5 mL), triethylamine (3.57 mL, 25.4 mmol) was added which caused a precipitate to form and inefficient stirring. Water (10 mL) was added until all solids were dissolved. 5-Chloroisatoic anhydride (2.51 g, 12.7 mmol) was added in portions, waiting until each portion dissolved before adding the next. Successive portions required longer periods of time, up to 15 minutes for the last portions. After the last portion was added, the suspension was sonicated for several minutes then stirred at ambient temperature overnight. The clear solution was concentrated in vacuo then azeotroped twice with acetone. The residue was redissolved in acetic acid (30 mL) and heated to 130° C. for 6 hours. The mixture was concentrated in vacuo to an oil, diluted with ethyl acetate (150 mL), washed with water (3×50 mL) then brine, dried with sodium sulfate, filtered and concentrated to a brown solid. This solid was resuspended in ethyl acetate (20 mL) and hexanes (10 mL) then slurried at ambient temperature for 30 minutes. Filtration provided 7-chloro-3-(2-chlorobenzyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione (2.4 g, 56%). 1H-NMR (300 MHz, DMSO-d6) δ 2.97 (m, 1H), 3.23 (m, 1H), 4.00 (m, 1H), 7.12 (d, 1H, J=8.79 Hz), 7.27 (m, 2H), 7.40 (m, 2H), 7.58 (dd, 1H, J1=8.79 Hz, J2=2.64 Hz), 7.67 (d, 1H, J=2.64 Hz), 8.73 (d, 1H, J=6.15 Hz), 10.59 (s, 1H); ESI m/z 335.0, 337.0.

reactant | 2-Amino-3-(2-chlorophenyl)propanoic acid hydrochloride | 12.7 mmol, 3.0 g | Cl.NC(C(=O)O)CC1=C(C=CC=C1)Cl
reactant | triethylamine | 25.4 mmol, 3.57 mL | C(C)N(CC)CC | C6H15N
reactant | 5-Chloroisatoic anhydride | 12.7 mmol, 2.51 g | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | water | 5 mL | O | H2O
solvent | Water | 10 mL | O | H2O
product | 7-chloro-3-(2-chlorobenzyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | 2.4 g, 56% | ClC1=CC2=C(NC(C(NC2=O)CC2=C(C=CC=C2)Cl)=O)C=C1 | C16H12Cl2N2O2
